US07223788B2
4-Cyclohexyl-N-[4-(3-cyclohexylamino-2-oxopyrrolidin-1-yl)phenyl]-N-methylbenzamide
N-[4-(3-Bromo-2-oxopyrrolidin-1-yl)phenyl]-4-cyclohexyl-N-methylbenzamide was reacted with cyclohexylamine by method L. This resulted in the product with the molecular weight of 473.66 (C30H39N3O2); MS (ESI): 474 (M+H+).

reactant | N-[4-(3-Bromo-2-oxopyrrolidin-1-yl)phenyl]-4-cyclohexyl-N-methylbenzamide | BrC1C(N(CC1)C1=CC=C(C=C1)N(C(C1=CC=C(C=C1)C1CCCCC1)=O)C)=O | C24H27BrN2O2
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
product | 4-Cyclohexyl-N-[4-(3-cyclohexylamino-2-oxopyrrolidin-1-yl)phenyl]-N-methylbenzamide | C1(CCCCC1)C1=CC=C(C(=O)N(C)C2=CC=C(C=C2)N2C(C(CC2)NC2CCCCC2)=O)C=C1 | C30H39N3O2
